US09120788B2
Step 1. Synthesis of N-(4-chloro-3-fluorophenyl)-3-nitropyridin-2-amine (C11)
4-Chloro-3-fluoroaniline (10.0 g, 68.7 mmol) was heated to 180° C. in an oil bath. 2-Chloro-3-nitropyridine (11.0 g, 69.4 mmol) was added, and the resulting mixture was stirred at 180° C. for 10 minutes. The reaction mixture was then cooled to 15° C. and washed with petroleum ether, providing the product as a salmon-pink solid. Yield: 15 g, 56 mmol, 82%. 1H NMR (400 MHz, CDCl3) δ 10.20 (br s, 1H), 8.57 (dd, J=8.3, 1.6 Hz, 1H), 8.54 (dd, J=4.6, 1.7 Hz, 1H), 7.90 (dd, J=11.3, 2.4 Hz, 1H), 7.38 (dd, J=8.5, 8.3 Hz, 1H), 7.23-7.28 (m, 1H, assumed; partially obscured by solvent peak), 6.94 (dd, J=8.3, 4.5 Hz, 1H).

reactant | 4-Chloro-3-fluoroaniline | 68.7 mmol, 10.0 g | ClC1=C(C=C(N)C=C1)F | C6H5ClFN
reactant | 2-Chloro-3-nitropyridine | 69.4 mmol, 11.0 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
product | N-(4-chloro-3-fluorophenyl)-3-nitropyridin-2-amine | ClC1=C(C=C(C=C1)NC1=NC=CC=C1[N+](=O)[O-])F | C11H7ClFN3O2
